US06710186B2
3-Tosyl-Cbz-(R)-Pyrrolidine 2.2.
3-Hydroxy-Cbz-(R)-pyrrolidine (13.7 g, 0.06 mol) was dissolved in CH2Cl2 (250 mL) and cooled to 0° C. p-Toluenesulfonyl chloride (14.16 g, 0.07 mol), and triethylamine (20.7 mL, 0.15 mol) were added and the resulting solution was stirred for 4 h at 0° C. The solution was washed with 1 M HCl, saturated NaHCO3, and brine. The organic solution was dried over MgSO4 and concentrated. The crude product was purified by column chromatography eluting with ethyl acetate/hexanes (3/1, v/v) to afford 20.4 g (88% yield) of the desired product as an oil.

reactant | 3-Hydroxy-Cbz-(R)-pyrrolidine | 0.06 mol, 13.7 g | O[C@H]1CN(CC1)C(=O)OCC1=CC=CC=C1 | C12H15NO3
reactant | p-Toluenesulfonyl chloride | 0.07 mol, 14.16 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 0.15 mol, 20.7 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | 3-Tosyl-Cbz-(R)-Pyrrolidine | 20.4 g, 88% yield | S(=O)(=O)(C1=CC=C(C)C=C1)[C@H]1CN(CC1)C(=O)OCC1=CC=CC=C1 | C19H21NO4S
